2132-02-14 07:18:00 Physician Resident Progress Note
TITLE: Physician Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   -inserted RIJ
   -pulled right femoral PA catheter/cordis
   -6:30 a.m., had 1 minute of rhythmic clonus of ankles, with opened eyes
   and adduction of arms/pronation of forearms.  Likely seizure.  Stopped
   with bolus of midazolam 4 mg + Fentanyl 100 mcg
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Furosemide (Lasix) - 5 mg/hour
   Heparin Sodium - 600 units/hour
   Dopamine - 4 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-2-14**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**33**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 34.3
C (93.7
   HR: 44 (29 - 80) bpm
   BP: 102/42(69) {101/38(64) - 148/61(99)} mmHg
   RR: 14 (14 - 21) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 20 (19 - 21)mmHg
   PAP: (44 mmHg) / (25 mmHg)
   Total In:
                                                                    251 mL
                                                                    267 mL
   PO:
   TF:
   IVF:
                                                                    251 mL
                                                                    267 mL
   Blood products:
   Total out:
                                                                  1,025 mL
                                                                    711 mL
   Urine:
                                                                  1,025 mL
                                                                    711 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -774 mL
                                                                   -444 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability, No Spon Resp
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.44/34/179/23/0
   Ve: 7.8 L/min
   PaO2 / FiO2: 447
   Physical Examination
   GENERAL: Intubated, sedated. Intraaortic balloon and arctic sun
   apparatus in place.
   HEENT: NCAT. Sclera anicteric. ET tube, NG tube, and esophageal
   temperature probe in place.
   NECK: Right IJ in place.
   CARDIAC: Bradycardic. Irregular. Heart sounds otherwise obscured by
   sound of balloon pump.
   LUNGS: Clear ventillated breath sounds anteriorly.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   GU: Foley in place.
   EXTREMITIES: Warm upper extremities. Cool lower extremities. No edema.
   NEURO: PERRL (sluggish). Does not respond to pain in any extremity.
   PULSES:
   Right: Radial 2+ DP doppler PT doppler
   Left: Radial 2+ DP absent PT doppler
   Labs / Radiology
   107 K/uL
   13.7 g/dL
   144 mg/dL
   1.5 mg/dL
   23 mEq/L
   4.0 mEq/L
   40 mg/dL
   108 mEq/L
   139 mEq/L
   38.2 %
   14.1 K/uL
        [image002.jpg]
                             [**2132-2-13**]  04:05 PM
                             [**2132-2-13**]  04:19 PM
                             [**2132-2-13**]  10:40 PM
                             [**2132-2-13**]  10:54 PM
                             [**2132-2-14**]  03:43 AM
                             [**2132-2-14**]  03:54 AM
   WBC
   18.8
   14.1
   Hct
   40.8
   38.2
   Plt
   135
   107
   Cr
   1.6
   1.5
   1.5
   TropT
   1.23
   TCO2
   22
   24
   24
   Glucose
   [**Telephone/Fax (3) 11442**]
   Other labs: PT / PTT / INR:35.9/150.0/3.7, CK / CKMB /
   Troponin-T:578/41/1.23, ALT / AST:105/154, Alk Phos / T Bili:91/2.2,
   Differential-Neuts:84.6 %, Lymph:9.0 %, Mono:5.0 %, Eos:1.1 %, Lactic
   Acid:1.4 mmol/L, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   81 yo M with CAD s/p CABG ischemic cardiomyopathy EF 40-45%, Afib on
   Coumadin, HTN, MR, TR, bifascicular block transferred from [**Location (un) 78**] s/p
   Vtach/Vfib arrest.
   .
   # s/p arrest: Unclear how long patient was down. Now on Arctic Sun
   cooling protocol. Exercise-induced VT/VF likely related to scar in
   setting of ischemic cardiomyopathy.
   -neuro consult
   -Arctic Sun for 18-24 hours
   -continuous EEG monitoring
   -monitoring electrolytes TID during cooling/warming
   .
   # CORONARIES: Trop 1.23, although difficult to interpret in setting of
   recent arrest. Stress test showed dynamic ST depressions in V2-V6 prior
   to arrest. Cath shows new occlusion of SVG-OM graft, although it is
   unclear how acute this is, as the last cath was in [**2119**].
   -ASA 325 mg daily
   -Lipitor 80 mg daily
   -consider repeat cath
   .
   # Cardiogenic shock: EF 40-45% by most recent echo. Low CI with high
   PCWP suggestive of cardiogenic shock.
   -IABP
   -Lasix gtt
   -levophed/dopamine PRN
   -repeat echo after warming
   .
   # RHYTHM: s/p arrest, as above. Currently in slow Afib.
   -monitor on tele
   -[**Hospital1 2266**] pads in place
   -replete lytes PRN
   -on heparin gtt
   .
   # Seizure: Patient had one minute of likely seizure activity at 6:30
   a.m. Resolved with midazolam and fentanyl boluses.  Lasted about 1
   minute. Electrolytes within normal limits.
   -neuro consulted
   -neuro to review EEG
   -continue continuous EEG monitoring
   .
   # Mechanical ventillation: Currently in CMV/AC, synchronous with vent,
   with blood gas 7.32/40/239.
   -continue mechanical ventillation, with goal PCO2 35-40
   .
   # Elevated LFTs: Likely related to ischemic insult in setting of
   arrest.
   -trend LFTs
   .
   # Acute renal failure: Likely pre-renal in setting of recent arrest.
   Baseline creatinine 1.3.
   -trend Cr
   -renally dose meds
   ICU Care
   Nutrition: NPO
   Glycemic Control: none
   Lines:
   Arterial Line - [**2132-2-13**] 03:00 PM
   IABP line - [**2132-2-13**] 03:00 PM
   20 Gauge - [**2132-2-13**] 03:35 PM
   18 Gauge - [**2132-2-13**] 03:36 PM
   Multi Lumen - [**2132-2-13**] 05:17 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: pantoprazole
   VAP: chlorhexidine
   Comments:
   Communication:  Healthcare proxy is brother [**Name (NI) 1585**] [**Name (NI) 3431**] ([**Telephone/Fax (1) 11435**],
   ([**Telephone/Fax (1) 11436**] (cell)
   Code status: FULL CODE
   Disposition: CCU

2132-02-15 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2132-2-14**] 08:25 AM
   Overnight Events:
   - neuro exam at 2am: moves head slight towards voice,unable to follow
   commands, PERRLA, babinski flat.
   - EP fellow called, reviewed EEG, no epileptiform activity.requested CT
   head-ordered.
   - ASA/lipitor started.
   - systemic heparin dc'd, ordered for IABP heparin.
   - start rewarming at 6pm with neuro exam after.
   - TID lytes: Cr 1.7 from 1.6 on admit.
   Platelets dropping, no bleeding.
   - Echo:  Focal LV systolic dysfunction consistent with prior inferior
   MI. Moderate mitral and mild aortic regurgitation. The right ventricle
   is not well seen but is probably dilated/hypokinetic.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Fentanyl - [**2132-2-14**] 03:00 PM
   Midazolam (Versed) - [**2132-2-14**] 04:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-2-15**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**33**] AM
   HR: 79 (41 - 92) bpm
   BP: 114/49(78) {104/45(72) - 142/56(97)} mmHg
   RR: 14 (8 - 17) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    960 mL
                                                                    179 mL
   PO:
             TF:
   IVF:
                                                                    960 mL
                                                                    179 mL
   Blood products:
   Total out:
                                                                  2,026 mL
                                                                  1,175 mL
   Urine:
                                                                  2,026 mL
                                                                  1,175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,066 mL
                                                                   -996 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 12 cmH2O
   Plateau: 19 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.36/43/185/22/-1
   Ve: 10.6 L/min
   PaO2 / FiO2: 463
   Physical Examination
   GEN: Intubated. Intraaortic balloon and arctic sun apparatus in place.
   Alert, able to follow commands and nod to answer questions.
   HEENT: NC/AT. ET tube, NG tube, and esophageal temperature probe in
   place. PERRL.
   NECK: Right IJ in place.
   CV: Irregular. No m/r/g appreciated.
   RESP: CTA anteriorly.
   ABD: Soft, NT/ND. BS present.
   EXT: Slight pitting edema noted around the ankles bilaterally.
   NEURO: Alert, Able to answer questions with nodding, Able to follow
   commands, Able to move all 4 extremities spontaneously.
   PULSES:
   Right: PT Doppler, DP doppler
   Left: PT Doppler, DP unable
   Labs / Radiology
   98 K/uL
   14.0 g/dL
   98 mg/dL
   1.7 mg/dL
   22 mEq/L
   4.1 mEq/L
   46 mg/dL
   105 mEq/L
   141 mEq/L
   40.7 %
   15.6 K/uL
        [image002.jpg]
                             [**2132-2-13**]  10:54 PM
                             [**2132-2-14**]  03:43 AM
                             [**2132-2-14**]  03:54 AM
                             [**2132-2-14**]  11:31 AM
                             [**2132-2-14**]  02:19 PM
                             [**2132-2-14**]  02:36 PM
                             [**2132-2-14**]  08:22 PM
                             [**2132-2-14**]  08:38 PM
                             [**2132-2-15**]  02:29 AM
                             [**2132-2-15**]  02:53 AM
   WBC
   14.1
   15.6
   Hct
   38.2
   40.7
   Plt
   107
   91
   98
   Cr
   1.5
   1.7
   1.6
   1.7
   TCO2
   24
   24
   21
   22
   26
   25
   Glucose
   144
   119
   125
   98
   Other labs: PT / PTT / INR:38.5/34.2/4.0, CK / CKMB /
   Troponin-T:578/41/1.23, ALT / AST:105/154, Alk Phos / T Bili:91/2.2,
   Differential-Neuts:84.6 %, Lymph:9.0 %, Mono:5.0 %, Eos:1.1 %, Lactic
   Acid:1.4 mmol/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   81 yo M with CAD s/p CABG ischemic cardiomyopathy EF 40-45%, Afib on
   Coumadin, HTN, MR, TR, bifascicular block transferred from [**Location (un) 78**] s/p
   Vtach/Vfib arrest.
   .
   # S/p arrest: Unclear how long patient was down. Exercise-induced VT/VF
   likely related to ischemia. S/p Arctic Sun cooling protocol, now in the
   rewarming phase.
   -appreciate neuro recs
   -continue rewarming per protocol
   -continuous EEG monitoring
   -monitoring electrolytes TID during cooling/warming
   .
   # CORONARIES: Trop 1.23, although difficult to interpret in setting of
   recent arrest. Stress test showed dynamic ST depressions in V2-V6 prior
   to arrest, with ST elevations in I and aVL.
   -ASA 325 mg daily
   -Lipitor 80 mg daily
   .
   # Cardiogenic shock: EF 40-45% by most recent echo. Low CI with high
   PCWP suggestive of cardiogenic shock. Echo [**2-14**] showing focal LV
   systolic dysfunction consistent with prior inferior MI; Moderate mitral
   and mild aortic regurgitation; right ventricle is not well seen but is
   probably dilated/hypokinetic.
   - IABP
   - Lasix gtt
   - repeat echo after warming
   - currently with supratherapeutic INR
   .
   # RHYTHM: s/p arrest, as above. Currently in slow Afib.
   - monitor on tele
   - [**Hospital1 2266**] pads in place
   - replete lytes PRN
   - INR supratherapeutic; can hold on heparin for now
   .
   # Seizure: Pt had ?seizure activity yesterday; however, no epileptiform
   activity seen on EEG. Resolved with midazolam and fentanyl boluses. No
   further episodes. Head CT ordered.
   - appreciate any neuro input
   - continue continuous EEG monitoring
   - f/u head CT when done
   .
   # Mechanical ventillation: Currently in CMV/AC, with some spontaneous
   ventillation, with blood gas 7.36/43/185.
   - RSBI deferred this morning secondary to hemodynamic instability
   - attempt RSBI once pt is off of IABP
   .
   # Elevated LFTs: Likely related to ischemic insult in setting of
   arrest.
   - LFTs added onto AM labs today, will trend
   .
   # Acute renal failure: Likely pre-renal in setting of recent arrest.
   Baseline creatinine 1.3. Of note, creatinine worsened to 1.7 this
   morning.
   - trend Cr
   - renally dose meds
   - urine lytes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-2-13**] 03:00 PM
   IABP line - [**2132-2-13**] 03:00 PM
   20 Gauge - [**2132-2-13**] 03:35 PM
   18 Gauge - [**2132-2-13**] 03:36 PM
   Multi Lumen - [**2132-2-13**] 05:17 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Supratherapeutic INR)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2132-02-16 06:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2132-2-15**] 01:45 PM
 BLOOD CULTURED - At [**2132-2-15**] 09:45 PM
 URINE CULTURE - At [**2132-2-15**] 09:45 PM
   Overnight Events:
   - extubated
   - neuro: still recommending imaging
   - urine lytes showed that he was dry
   - got 1 mg vit K, as INR still rising
   - cultured pt [**1-8**] fevers, CXR did show show any acute change
   - pulled foley
   - U/A showed UTI; started cipro
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-2-16**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**33**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.1
C (100.6
   HR: 65 (65 - 90) bpm
   BP: 106/42(73) {93/34(61) - 127/60(94)} mmHg
   RR: 16 (13 - 24) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                    387 mL
                                                                     36 mL
   PO:
             TF:
   IVF:
                                                                    387 mL
                                                                     36 mL
   Blood products:
   Total out:
                                                                  2,755 mL
                                                                    380 mL
   Urine:
                                                                  2,755 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,368 mL
                                                                   -344 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 585 (585 - 718) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.42/38/169//0
   Ve: 7.9 L/min
   PaO2 / FiO2: 422
   Physical Examination
   GEN: Intubated. Intraaortic balloon and arctic sun apparatus in place.
   Alert, able to follow commands and nod to answer questions.
   HEENT: NC/AT. ET tube, NG tube, and esophageal temperature probe in
   place. PERRL.
   NECK: Right IJ in place.
   CV: Irregular. No m/r/g appreciated.
   RESP: CTA anteriorly.
   ABD: Soft, NT/ND. BS present.
   EXT: Slight pitting edema noted around the ankles bilaterally.
   NEURO: Alert, Able to answer questions with nodding, Able to follow
   commands, Able to move all 4 extremities spontaneously.
   PULSES:
   Right: PT Doppler, DP doppler
   Left: PT Doppler, DP unable
   Labs / Radiology
   98 K/uL
   14.0 g/dL
   98 mg/dL
   1.7 mg/dL
   22 mEq/L
   3.8 mEq/L
   46 mg/dL
   105 mEq/L
   141 mEq/L
   40.7 %
   15.6 K/uL
        [image002.jpg]
                             [**2132-2-14**]  03:43 AM
                             [**2132-2-14**]  03:54 AM
                             [**2132-2-14**]  11:31 AM
                             [**2132-2-14**]  02:19 PM
                             [**2132-2-14**]  02:36 PM
                             [**2132-2-14**]  08:22 PM
                             [**2132-2-14**]  08:38 PM
                             [**2132-2-15**]  02:29 AM
                             [**2132-2-15**]  02:53 AM
                             [**2132-2-15**]  08:25 AM
   WBC
   14.1
   15.6
   Hct
   38.2
   40.7
   Plt
   107
   91
   98
   Cr
   1.5
   1.7
   1.6
   1.7
   TCO2
   24
   21
   22
   26
   25
   25
   Glucose
   144
   119
   125
   98
   Other labs: PT / PTT / INR:48.1/36.6/5.2, CK / CKMB /
   Troponin-T:578/41/1.23, ALT / AST:89/139, Alk Phos / T Bili:84/1.2,
   Differential-Neuts:84.6 %, Lymph:9.0 %, Mono:5.0 %, Eos:1.1 %, Lactic
   Acid:1.4 mmol/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   81 yo M with CAD s/p CABG ischemic cardiomyopathy EF 40-45%, Afib on
   Coumadin, HTN, MR, TR, bifascicular block transferred from [**Location (un) 78**] s/p
   Vtach/Vfib arrest.
   .
   # S/p arrest: Unclear how long patient was down. Exercise-induced VT/VF
   likely related to ischemia. S/p Arctic Sun cooling protocol, rewarmed
   overnight.
   - appreciate neuro recs
   - continuous EEG monitoring per protocol
   .
   # CORONARIES: Trop 1.23, although difficult to interpret in setting of
   recent arrest. Stress test showed dynamic ST depressions in V2-V6 prior
   to arrest, with ST elevations in I and aVL.
   -ASA 325 mg daily
   -Lipitor 80 mg daily
   .
   # Cardiogenic shock: EF 40-45% by most recent echo. Low CI with high
   PCWP suggestive of cardiogenic shock. Echo [**2-14**] showing focal LV
   systolic dysfunction consistent with prior inferior MI; Moderate mitral
   and mild aortic regurgitation; right ventricle is not well seen but is
   probably dilated/hypokinetic.
   - IABP until INR lower; will give small dose of vitamin K if INR
   continues to rise
   - can d/c lasix gtt as pt does not seem fluid overloaded at this point
   - repeat echo in the next few days
   .
   # RHYTHM: s/p arrest, as above. Currently in slow Afib.
   - monitor on tele
   - [**Hospital1 2266**] pads in place
   - replete lytes PRN
   - INR supratherapeutic
   .
   # Seizure: Pt had ?seizure activity yesterday; however, no epileptiform
   activity seen on EEG. Resolved with midazolam and fentanyl boluses. No
   further episodes.
   - appreciate any neuro input
   - continue continuous EEG monitoring
   - cancel head CT, as neuro status improving
   .
   # Mechanical ventillation: Doing well on CPAP 5/5 this morning.
   - will likely extubated this afternoon
   .
   # Elevated LFTs: Likely related to ischemic insult in setting of
   arrest.
   - LFTs added onto AM labs today, will trend
   .
   # Acute renal failure: Baseline creatinine 1.3. Of note, creatinine
   worsened to 1.7 this morning from 1.6 yesterday. Pre-renal vs. ATN in
   the setting of recent cardiac arrest.
   - trend Cr
   - renally dose meds
   - urine lytes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-2-13**] 03:00 PM
   IABP line - [**2132-2-13**] 03:00 PM
   20 Gauge - [**2132-2-13**] 03:35 PM
   18 Gauge - [**2132-2-13**] 03:36 PM
   Multi Lumen - [**2132-2-13**] 05:17 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: supratherapeutic INR)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2132-02-17 04:09:00 Physician Resident Progress Note
TITLE: Physician Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   - started ciprofloxacin for UTI
   - d/c'ed aortic balloon pump
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-2-17**] 04:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**33**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.9
C (98.5
   HR: 80 (68 - 88) bpm
   BP: 129/60(76) {118/48(67) - 152/69(86)} mmHg
   RR: 16 (12 - 23) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
                  Total In:
                                                                    516 mL
                  PO:
                                                                    380 mL
                  TF:
   IVF:
                                                                    136 mL
   Blood products:
   Total out:
                                                                  1,216 mL
                                                                      0 mL
   Urine:
                                                                  1,216 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -700 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   GEN: Alert; Oriented to year (throught he was at [**Hospital1 **] [**Location (un) 78**] and that
   is was [**Month (only) 1340**]); Able to follow commands and move all 4 extremities
   spontaneously
   HEENT: NC/AT. PERRL.
   CV: Irregular. No m/r/g appreciated.
   RESP: CTA anteriorly; ?decreased BS on L (may be obscured by IABP
   sounds)
   ABD: Soft, NT/ND.
   EXT: Slight pitting edema noted around the ankles bilaterally.
   Right: PT Doppler, DP doppler
   Left: PT Doppler, DP doppler
   Labs / Radiology
   72 K/uL
   11.8 g/dL
   120 mg/dL
   1.5 mg/dL
   29 mEq/L
   3.7 mEq/L
   49 mg/dL
   108 mEq/L
   145 mEq/L
   34.7 %
   12.1 K/uL
        [image002.jpg]
                             [**2132-2-14**]  02:19 PM
                             [**2132-2-14**]  02:36 PM
                             [**2132-2-14**]  08:22 PM
                             [**2132-2-14**]  08:38 PM
                             [**2132-2-15**]  02:29 AM
                             [**2132-2-15**]  02:53 AM
                             [**2132-2-15**]  08:25 AM
                             [**2132-2-16**]  05:36 AM
                             [**2132-2-16**]  08:30 AM
                             [**2132-2-16**]  05:24 PM
   WBC
   15.6
   13.3
   12.1
   Hct
   40.7
   34.2
   34.7
   Plt
   91
   98
   70
   72
   Cr
   1.7
   1.6
   1.7
   1.3
   1.5
   TCO2
   22
   26
   25
   25
   Glucose
   119
   125
   98
   118
   120
   Other labs: PT / PTT / INR:25.7/37.6/2.5, CK / CKMB /
   Troponin-T:578/41/1.23, ALT / AST:89/139, Alk Phos / T Bili:84/1.2,
   Differential-Neuts:84.6 %, Lymph:9.0 %, Mono:5.0 %, Eos:1.1 %, Lactic
   Acid:1.4 mmol/L, Ca++:8.7 mg/dL, Mg++:2.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   81 yo M with CAD s/p CABG ischemic cardiomyopathy EF 40-45%, Afib on
   Coumadin, HTN, MR, TR, bifascicular block transferred from [**Location (un) 78**] s/p
   Vtach/Vfib arrest.
   .
   # s/p arrest: Unclear how long patient was down. Exercise-induced VT/VF
   likely related to ischemia. S/p Arctic Sun cooling protocol. Mental
   status is improving.
   - appreciate neuro recs
   - continue to monitor mental status
   .
   # Cardiogenic shock: Echo [**2-14**] showing focal LV systolic dysfunction
   consistent with prior inferior MI; Moderate mitral and mild aortic
   regurgitation; right ventricle is not well seen but is probably
   dilated/hypokinetic. Now off intraaortic balloon pump and off pressors.
   Appears euvolemic.
   - hold on further diuresis, as pt appears clinically euvolemic and
   hypovolemic by urine lytes
   - repeat echo in the next few days
   .
   # Atrial fibrillation: On coumadin as outpatient.
   - monitor on tele
   - restart Coumadin
   - INR subtherapeutic; want to hold off on restarting Coumadin in
   setting of Hct drop
   .
   # Anemia: Hct 29.2, from 34.7 yesterday and 40.7 on [**2-15**]. No evidence
   of bleeding. Could have been hemolyzing in setting of balloon pump.
   - CBC [**Hospital1 **]
   - Check hemolysis labs
   - Guaiac all stools
   .
   # Thrombocytopenia: Likely related to balloon pump. Not likely HIT.
   - repeat CBC
   - avoid heparin products once IABP is removed
   .
   # Coronary artery disease: Trop 1.23 on admission, likely due to
   arrest/CPR. Stress test showed dynamic ST depressions in V2-V6 prior to
   arrest, with ST elevations in I and aVL.  Has chronic ischemic
   cardiomyopathy with EF 40-45%.
   - ASA 325 mg daily
   - Lipitor 80 mg daily
   - repeat cath when more stable
   - consider restarting beta blocker/[**Last Name (un) 284**]
   .
   # Hypertension: Initially presented in cardiogenic shock, but BP now
   increasing off pressors and balloon pump.
   - slowly restart home meds, including beta
   blocker/[**Last Name (un) 284**]/felodipine/Lasix/spironolactone
   .
   # Elevated LFTs: Likely related to ischemic insult in setting of
   arrest.  Trending down.
   - continue to trend
   .
   # Acute renal failure: Creatinine was 1.6 on admission, now 1.2. Was
   pre-renal in the setting of cardiac arrest/cardiac shock. Renal
   function improving.
   - trend Cr
   .
   # UTI: urine culture growing E. coli.
   - f/u sensitivities on urine cultures
   - continue cipro
   .
   # Glaucoma: restart home Xalatan
   ICU Care
   Nutrition: Currently NPO.
   Glycemic Control:  none
   Lines: Consider d/c of central line today.
   20 Gauge - [**2132-2-13**] 03:35 PM
   Multi Lumen - [**2132-2-13**] 05:17 PM
   Prophylaxis:
   DVT: INR subtherapeutic, not on prophylaxis
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU